US05965559
A solution of sodium nitrite (2.7 g) in water (5 ml) was added during 2 hours to a stirred mixture of 6-amino-2-naphthalenesulphonic acid (8.8 g), dilute aqueous hydrochloric acid (2.8% weight/volume, 20 ml) and water (15 ml) which had been cooled to 0° C. The mixture was stirred at 0° C. for 30 minutes and then poured onto a stirred suspension of cuprous chloride (3.96 g) in dilute aqueous hydrochloric acid (2.8%, 20 ml). The mixture was stored at ambient temperature for 18 hours. The mixture was evaporated to give 6-chloro-2-naphthalenesulphonic acid which was used without further purification.

reactant | sodium nitrite | 2.7 g | N(=O)[O-].[Na+]
reactant | 6-amino-2-naphthalenesulphonic acid | 8.8 g | NC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)O | C10H9NO3S
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 5 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 6-chloro-2-naphthalenesulphonic acid | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)O | C10H7ClO3S
